US07163942B2
(R)-2-(4-chloro-benzenesulfonylamino)-2-(4-fluoro-phenyl)-acetamide
The title compound was synthesized according to the procedure of Preparation 3 employing (R)-2-amino-2-(4-fluoro-phenyl)-acetamide and 4-chlorobenzenesulfonylchloride to afford the desired product. 1HNMR (400 MHz, CD3OD)δ 4.87 (s, 1H), 6.94 (m, 2H), 7.24 m, 2H), 7.6 (dd, 4H, J=2.1, 103).

reactant | (R)-2-amino-2-(4-fluoro-phenyl)-acetamide | N[C@@H](C(=O)N)C1=CC=C(C=C1)F | C8H9FN2O
reactant | 4-chlorobenzenesulfonylchloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (R)-2-(4-chloro-benzenesulfonylamino)-2-(4-fluoro-phenyl)-acetamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)C1=CC=C(C=C1)F | C14H12ClFN2O3S
